US09315521B2
To {2-chloro-6-[(diethylamino)methyl]phenyl}methanol (3.0 g, 13.2 mmol) in anhydrous dichloromethane (80 mL) was added dropwise tribromophosphane (2.5 mL, 26.4 mmol). The mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was dried in vacuo, affording {[2-(bromomethyl)-3-chlorophenyl]methyl}diethylamine. The product was used without further purification.

reactant | {2-chloro-6-[(diethylamino)methyl]phenyl}methanol | 13.2 mmol, 3.0 g | ClC1=C(C(=CC=C1)CN(CC)CC)CO | C12H18ClNO
reactant | tribromophosphane | 26.4 mmol, 2.5 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | {[2-(bromomethyl)-3-chlorophenyl]methyl}diethylamine | BrCC1=C(C=CC=C1Cl)CN(CC)CC | C12H17BrClN
